* C:\Users\iibak\OneDrive\Documents\LTspice\EENG304L Lab7.asc
R1 N001 N002 34.4k
VDD N001 0 1.8
M1 N002 N002 0 0 nmos114
Vload N003 0 0
M2 N003 N002 0 0 nmos114
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\iibak\AppData\Local\LTspice\lib\cmp\standard.mos
.dc Vload 0 1.8 0.001
.model nmos114 nmos kp=0.4m vto=0.5v lambda=0 w = 0.72u l=0.18u;
.backanno
.end
